US04411910
950 mg of 5-nitro-6-phenoxyphthalide in 120 ml of methanol and 30 ml of tetrahydrofuran is hydrogenated in the presence of 2 g of Raney nickel within 3 hours at 20 bar, filtered, and concentrated. From methanol, 570 mg of 5-amino-6-phenoxyphthalide is obtained, mp 205°-206.5° C.

reactant | 5-nitro-6-phenoxyphthalide | 950 mg | [N+](=O)([O-])C=1C=C2COC(=O)C2=CC1OC1=CC=CC=C1 | C14H9NO5
solvent | methanol | 120 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 5-amino-6-phenoxyphthalide | 570 mg | NC=1C=C2COC(=O)C2=CC1OC1=CC=CC=C1 | C14H11NO3
